US06468607B1
The procedure of Example 14 was followed except that 5,6-difluoro-2-bromonaphthalene (synthesized by converting 6-bromo-1-fluoro-2-naphthylamine to a diazonium salt of tetrafluoroboric acid, and then subjecting the diazonium salt to thermal decomposition) was used instead of 6-fluoro-2-bromonaphthalene and 4-pentylcyclohexanone was used instead of 4-propylcyclohexanone to obtain 5,6-difluoro-2-(trans-4-pentylcyclohexyl)naphthalene.

reactant | 5,6-difluoro-2-bromonaphthalene | FC1=C2C=CC(=CC2=CC=C1F)Br | C10H5BrF2
reactant | 6-bromo-1-fluoro-2-naphthylamine | BrC=1C=C2C=CC(=C(C2=CC1)F)N | C10H7BrFN
reactant | tetrafluoroboric acid | F[B-](F)(F)F.[H+]
reactant | 6-fluoro-2-bromonaphthalene | FC=1C=C2C=CC(=CC2=CC1)Br | C10H6BrF
reactant | 4-pentylcyclohexanone | C(CCCC)C1CCC(CC1)=O | C11H20O
product | 5,6-difluoro-2-(trans-4-pentylcyclohexyl)naphthalene | FC1=C2C=CC(=CC2=CC=C1F)[C@@H]1CC[C@H](CC1)CCCCC | C21H26F2
